US09145419B2
23A. 6-Chloro-8-(pyridin-3-yl)imidazo[1,2-b]pyridazine
A microwave vial was charged with a mixture of 8-bromo-6-chloroimidazo[1,2-b]pyridazine (1.06 g, 4.56 mmol), 3-(1,3,2-dioxaborinan-2-yl)pyridine (0.743 g, 4.56 mmol), dioxane (14 mL), and tetrakis(triphenylphosphine)palladium(0) (0.527 g, 0.456 mmol), and K3PO4 (2.90 g, 13.68 mmol) (2.0 M water solution) was stirred at room temperature for 5 min. under nitrogen. The resulting mixture was heated to 100° C. for 8 h in microwave. The reaction mixture was cooled to room temperature, quenched with water, and diluted with EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc (3×20 mL). The combined organic layer was washed with brine, dried over anhydrous Na2SO4, and filtered. The filtrate was concentrated under reduced pressure. The residue was purified by BIOTAGE® (20-60% EtOAc/hex, 1.5 L) to the product (0.39 g, 37%). LC/MS: Rt=1.07 min. LC/MS (Condition A): 231.09/233.09.

reactant | 8-bromo-6-chloroimidazo[1,2-b]pyridazine | 4.56 mmol, 1.06 g | BrC=1C=2N(N=C(C1)Cl)C=CN2 | C6H3BrClN3
reactant | 3-(1,3,2-dioxaborinan-2-yl)pyridine | 4.56 mmol, 0.743 g | O1B(OCCC1)C=1C=NC=CC1 | C8H10BNO2
reactant | K3PO4 | 13.68 mmol, 2.0 M, 2.90 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.456 mmol, 0.527 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 14 mL | O1CCOCC1 | C4H8O2
product | 6-Chloro-8-(pyridin-3-yl)imidazo[1,2-b]pyridazine | ClC=1C=C(C=2N(N1)C=CN2)C=2C=NC=CC2 | C11H7ClN4
